US07585875B2
To a solution of 630 mg (2.24 mmol) of 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one oxime in 2 ml of anhydrous THF was added 600 μl of trimethylsilyl isocyanate (85%) dropwise at 0° C. over 30 minutes. The mixture was stirred at room temperature overnight, followed by the addition of 500 μl pyridine and stirring for another 4 hours. The solvent was removed in vacuo, and the residue obtained was purified on an aluminum oxide column with hexane-dichloromethane-ethyl acetate as eluant to yield 482 mg (66.3%) of 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one O-carbamoyl oxime. Compound 1017.

reactant | 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one oxime | 2.24 mmol, 630 mg | CC(C(=NO)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)C | C17H17N3O
reactant | trimethylsilyl isocyanate | 600 μl | C[Si](C)(C)N=C=O | C4H9NOSi
reactant | pyridine | 500 μl | N1=CC=CC=C1 | C5H5N
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 2-methyl-1-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one O-carbamoyl oxime | 482 mg, 66.3% | C(N)(=O)ON=C(C(C)C)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C18H18N4O2
